US03989832
EXAMPLE 11- PREPARATION OF 3-(5-NITRO-1-METHYL-2-IMIDAZOLYL)-6-ACETAMIDO-S-TRIAZOLO [4,3-b]PYRIDAZINE
1.45 g. 3-(5-nitro-1-methyl-2-imidazolyl)-6-amino-s-triazolo [4,3-b]pyridazine was boiled under reflux with 22 ml. acetic anhydride for 1.5 hours at 160° C. bath temperature, the solution obtained was then mixed with charcoal, suction filtered while still hot, washed with a little acetic anhydride and then with ether and dried for 3 hours at 120° C. There was thus obtained 0.79 g. of the desired 3-(5-nitro-1-methyl-2-imidazolyl)-6-acetamido-s-triazolo [4,3-b]pyridazine in the form of yellow-white crystals which melt at 238° - 239° C. and show a change above 230° C.

reactant | 3-(5-nitro-1-methyl-2-imidazolyl)-6-amino-s-triazolo [4,3-b]pyridazine | [N+](=O)([O-])C1=CN=C(N1C)C1=NN=C2N1N=C(C=C2)N | C9H8N8O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | charcoal | C | CH4
product | 3-(5-NITRO-1-METHYL-2-IMIDAZOLYL)-6-ACETAMIDO-S-TRIAZOLO [4,3-b]PYRIDAZINE | [N+](=O)([O-])C1=CN=C(N1C)C1=NN=C2N1N=C(C=C2)NC(C)=O | C11H10N8O3
